US09034866B2
Synthesis of (±)-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was prepared similarly according to General Procedure G with slight modifications. 10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 3-methyl-1-butyne-3-ol to afford 25.7 mg of the titled compound (45% yield). M+1=472.1. 1H NMR (400 MHz, DMSO) δ 8.57 (d, J=8.4 Hz, 1H), 7.94 (br s, 1H), 7.47 (br s, 1H), 7.18-7.06 (m, 2H), 7.05-7.00 (m, 2H), 6.98 (d, J=10.6 Hz, 1H), 6.91-6.85 (m, 1H), 5.54 (s, 1H), 4.58-4.49 (m, 1H), 4.48-4.36 (m, 2H), 4.11-3.92 (m, 1H), 1.49 (s, 6H).

reactant | 10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(O)C3=CC(=CC(=C3)F)F)C1)F | C19H13BrF3N3O3
reactant | 3-methyl-1-butyne-3-ol | CC(C#C)(C)O | C5H8O
product | (±)-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 25.7 mg, 45% yield | FC=1C=C(C=C(C1)F)C(C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#CC(C)(C)O)C(=O)N)O | C24H20F3N3O4
